US04927958
A solution of 2.4 g (7.2 mmol) of 2-(2-methoxyethoxy)-ethyl (E)-4-hydroxy-6-(4-methoxyphenyl)-5-hexen-2-ynoate in 40 ml of methylene chloride was added dropwise at 0° to a suspension of 9.4 g (108 mmol) of manganese dioxide in 30 ml of methylene chloride. The reaction mixture was stirred at 0° for 2 hours, filtered over magnesium sulphate and concentrated. Crystallization of the residue from ether/hexane yielded 2-(2-methoxyethoxy)ethyl (E)-6-(4-methoxyphenyl)-4-oxo-5-hexen-2-ynoate of melting point 41°-42°.

reactant | 2-(2-methoxyethoxy)-ethyl (E)-4-hydroxy-6-(4-methoxyphenyl)-5-hexen-2-ynoate | 7.2 mmol, 2.4 g | OC(C#CC(=O)OCCOCCOC)\C=C\C1=CC=C(C=C1)OC | C18H22O6
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 108 mmol, 9.4 g | [O-2].[O-2].[Mn+4]
product | 2-(2-methoxyethoxy)ethyl (E)-6-(4-methoxyphenyl)-4-oxo-5-hexen-2-ynoate | COC1=CC=C(C=C1)/C=C/C(C#CC(=O)OCCOCCOC)=O | C18H20O6
